Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
tachycardia, sob
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yoF with recent dx of PE (___) on apixiban, HTN, CKD who 
presents with chief complaint of dyspnea and tachycardia.  Pt 
also complains of SOB and DOE, breathlessness with deep breaths 
and notes that she is feeling easily fatigued with easy tasks 
such as walking to store from parking lot or cooking.  She does 
not note significant worsening since starting apixiban, just 
lack of improvement.  She also endorses feeling jittery at times 
and has been tachycardic.  She denies significant anxiety and 
has not taken lorazepam in a month or so.  Finally, she 
describes a constant burning sensation in her mid chests that is 
mild and she does not think is heartburn as it does not respond 
to Maalox.  She has this as well as the discomfort with deep 
breaths since her PE was diagnosed.  Finally, she endorses cough 
which is chronic but has been worse over the last week; 
previously had been on a PPI but this was switched to xantac 
recently and pt has not filled the Rx given she feels her sxs 
have been controlled with change and diet and tums.  Pt has not 
been taking sats at home but they have been 98% in the office.  
She has not missed any doses of Eliquis except this AM since she 
was at her PCPs; last dose was given at 7PM in the ED.

In the ED, initial vitals were: 97.9, 112, 136/16, 18, 98% RA.  
Labs were notable for d-dimer of 1737, INR 1.5 Pt was 
persistently tachycardic while in the ED, vitals otherwise 
stable.  EKG showed tachycardia, nl axis, no ischemic changes, 
POCUS with hyperdynamic ventricle, mild RV dilation.  ___ 
started Eliquis.  

On the floor, feels okay currently, mild headache, a little 
anxious.  Cough persists.

Review of systems:
(+) Per HPI, also 11 lb wt loss in ___ m
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies nausea, vomiting, 
diarrhea, constipation or abdominal pain. No recent change in 
bowel or bladder habits. No dysuria. Denies arthralgias or 
myalgias. 10 pt ros otherwise negative.
 
Past Medical History:
(per chart, confirmed with pt):
*S/P LAP ADJ GASTRIC BAND 
GIANT CELL TUMOR OF THE SPINE-benign, with bone graft from hip 
with resultant hip pain and L sided neuropathy
HYPERTENSION 
OBESITY 
CHRONIC KIDNEY DISEASE 
PSORIASIS-per pt stress induced, now resolved
CHRONIC COUGH
PULMONARY EMBOLISM, diagnosed via VQ scan ___ at ___

 
Social History:
___
Family History:
(per chart, confirmed with pt):  mother with hypertension.  

 
Physical Exam:
Admission Physical
Vitals: 98.6 117/77 104 18 99% RA
Constitutional: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Faint bi-basilar crackles
GI: Soft, non-tender, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding
GU: No Foley
Ext: Warm, well perfused, no CCE
Neuro: aaox3 CNII-XII and strength grossly intact 
Skin: no rashes or lesions

DISCHARGE PHYSICAL:
VS: AF, Tc 98.4, 121/58, 106, 18, 98 RA
Pain: zero out of 10.
Gen: NAD, in bed
HEENT: anicteric
CV: RRR, no murmur
Pulm: CTAB, no crackles or wheeze, normal WOB, comfortable
Abd: soft, obese, NT, NABS
Ext: no edema
Skin: warm, dry
Neuro: alert, fluent speech
Psych: slightly anxious, but appropriate
 
Pertinent Results:
Admission Labs:
====================
___ 03:35PM BLOOD ___ PTT-34.9 ___
___ 03:35PM BLOOD ALT-21 AST-17 AlkPhos-93 TotBili-0.6
___ 03:35PM BLOOD Albumin-4.5 Calcium-10.3 Phos-3.3 Mg-2.2
___ 03:35PM BLOOD proBNP-48
___ 03:35PM BLOOD cTropnT-<0.01
___ 03:35PM BLOOD D-Dimer-___*

Interval Labs:
====================
___ 04:46PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)- 
negative, negative
___ 04:46PM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)- negative, negative, negative

Imaging:
====================
___ PA/LAT CXR
IMPRESSION:
No acute cardiopulmonary process.

___ VQ Scan
UPDATED IMPRESSION:
1.  Overall stable to improving pulmonary embolism clot burden 
from ___.  No new pulmonary embolus.

___ Echocardiogram
Conclusions
The left atrium and right atrium are normal in cavity size. The 
estimated right atrial pressure is ___ mmHg. Mild symmetric left 
ventricular hypertrophy with normal cavity size, and 
regional/global systolic function (biplane LVEF = 65 %). Doppler 
parameters are indeterminate for left ventricular diastolic 
function. Right ventricular chamber size is normal with 
borderline normal free wall function. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis or 
regurgitation are not present. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. The left ventricular inflow 
pattern suggests impaired relaxation. The tricuspid valve 
leaflets are mildly thickened. The estimated pulmonary artery 
systolic pressure is normal. There is a trivial/physiologic 
pericardial effusion.

Compared with the prior study (images reviewed) of ___, 
the findings are similar.

 
Brief Hospital Course:
___ yo F with hx recent dx of PE (___) on apixiban, HTN, CKD who 
presented with chief complaint of dyspnea and tachycardia, 
likely due to recent PE.

# SOB
# tachycardia
# recent unprovoked / idiopathic PE
Pt presented with persistent, although NOT worsening, symptoms 
of SOB and tachycardia in the setting of recent PE diagnosis on 
VQ scan.  She had completed the loading dose of Eliquis and had 
just started the maintenance dose of Eliquis.  Due to her 
symptoms, she was admitted for VQ scan to r/o worsening clot 
burden and possible anticoagulation failure.  She was also 
admitted for concern of right heart strain, as ED point-of-care 
ultrasound showed possible RV dilatation.  However, her troponin 
and BNP were well within normal limits.  Her echocardiogram 
ultimately did not show significant RV strain.  Her repeat VQ 
scan was initially concerning for new PE's, however her original 
images were not available for comparison.  As such, she had her 
Eliquis stopped and she was started on heparin drip for possible 
anti-coagulation failure.  She was then seen by Hematology for ? 
NOAC failure, as well as to comment on the nature of her VTE, as 
the episode appears unprovoked.  Once her original VQ scan 
images were obtained, Radiology felt that her new VQ scan 
actually showed IMPROVING clot burden, so Hematology recommended 
stopping heparin drip and resuming Eliquis, with plan for 
minimum ___ months of anti-coagulation and consideration of 
lifelong anticoagulation.  Her symptoms were improving during 
the hospitalization even prior to change to heparin GTT.  In 
terms of w/u for trigger for PE, she is nearly up-to-date for 
cancer screening (last mammography ___ year ago, is scheduled to 
have one done this year).  Hematology recommended checking 
anti-cardiolipin antibodies and anti-beta-2-glycoprotein 1 
antibodies, but no other thrombophilia work-up.  These 
antibodies were still PENDING at time of discharge.

TRANSITIONAL ISSUES:
1.  f/u pending anti-cardiolipin and anti-beta-2 glycoprotein 1 
antibodies.  If results are abnormal, will need referral to 
___ ---> negative anti-cardiolipin and negative 
beta-2 GP-1 antibodies.
2.  outpatient mammogram (already scheduled)
3.  on-going discussion re: duration of anticoagulation, minimum 
3 months
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Apixaban 5 mg PO BID 
3. Spironolactone 50 mg PO DAILY 
4. TraMADol 50-100 mg PO Q4H:PRN pain 
5. Valsartan 320 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. amLODIPine 5 mg PO DAILY 
2. Apixaban 5 mg PO BID 
3. Multivitamins 1 TAB PO DAILY 
4. Spironolactone 50 mg PO DAILY 
5. TraMADol 50-100 mg PO Q4H:PRN pain 
6. Valsartan 320 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pulmonary embolism with associated tachycardia and dyspnea on 
exertion (improving)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for persistent shortness of 
breath and elevated heart rate.  You underwent repeat VQ scan 
and an echocardiogram.  VQ scan showed improving blood clots.  
Echocardiogram did not show any significant right heart strain.  
You were seen by the Hematology team and they did not think that 
there was any evidence to suggest failure of your apixaban 
(Eliquis).  Some blood tests were sent to rule out an underlying 
hypercoagulable state (tendency to form clots), with results 
still pending at time of discharge.  Your PCP should ___ 
the results of these tests.

 
Followup Instructions:
___